US08541457B2
Synthesis of 2-(4-Benzylbenzamido)-N-ethyl-4-methylthiazole-5-carboxamide
To a solution of 2-amino-N-ethyl-4-methylthiazole-5-carboxamide (0.17 g, 0.93 mmol) in dichloromethane (2 mL) at −78° C. was added sodium hydride (excess) followed by the addition of 4-benzylbenzoyl chloride (1 equiv of 0.5 M in N,N-dimethylformamide). The reaction was allowed to warm to ambient temperature over 18 h then concentrated in vacuo. The crude product was purified by preparative HPLC (acetone/water gradient) to afford the title compound (0.005 g); 1H NMR (CD3OD, 400 MHz) δ 7.90 (d, J=8.6 Hz, 2H), 7.35 (d, J=8.1 Hz, 2H), 7.27-7.13 (m, 5H), 4.03 (s, 2H), 3.32 (q, J=7.6 Hz, 2H), 2.50 (s, 3H), 1.17 (t, J=7.6 Hz, 3H); MS (ES+) m/z 380 (M+1).

reactant | 2-amino-N-ethyl-4-methylthiazole-5-carboxamide | 0.93 mmol, 0.17 g | NC=1SC(=C(N1)C)C(=O)NCC | C7H11N3OS
reactant | sodium hydride | [H-].[Na+]
reactant | 4-benzylbenzoyl chloride | 0.5 M, 1 equiv | C(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C14H11ClO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(4-Benzylbenzamido)-N-ethyl-4-methylthiazole-5-carboxamide | 0.005 g | C(C1=CC=CC=C1)C1=CC=C(C(=O)NC=2SC(=C(N2)C)C(=O)NCC)C=C1 | C21H21N3O2S
